US03966965
N-(2-Carbamoyl-3-methoxyphenyl)oxamide. 26
2'-Carbamoyl-3'-methoxyoxanilic acid ethyl ester (5.0 g, 0.0188 mole) is added to 50 ml of ethanol saturated with ammonia at 0°-5°C., and the mixture is stirred in an ice-bath for 2 hours, then filtered. The cake is washed with ethanol, giving 1.41 g of the title compound, m.p. 252°-255°C., after crystallization from water.

reactant | 2'-Carbamoyl-3'-methoxyoxanilic acid ethyl ester | 0.0188 mole, 5.0 g | CCOC(=O)C(=O)NC1=C(C(=CC=C1)OC)C(=O)N | C12H14N2O5
reactant | ammonia | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(2-Carbamoyl-3-methoxyphenyl)oxamide | 1.41 g | C(N)(=O)C1=C(C=CC=C1OC)NC(=O)C(=O)N | C10H11N3O4
